US07910613B2
69: N-[5-(3-Ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-3-methyl-butyramide
Prepared from 5-(3-ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-ylamine and 3-methyl-butyryl chloride.

reactant | 5-(3-ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-ylamine | C(C)C1=NOC(=N1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C13H12N4OS
reactant | 3-methyl-butyryl chloride | CC(CC(=O)Cl)C | C5H9ClO
product | N-[5-(3-Ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-3-methyl-butyramide | C(C)C1=NOC(=N1)C1=C(N=C(S1)NC(CC(C)C)=O)C1=CC=CC=C1 | C18H20N4O2S
